US03983110
1,2,3,4-tetrahydro-8,9-dimethoxy-3-(2-[4-(2-morpholinoethyl)-1-piperazinyl]ethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one trihydrochloride.
A mixture of 0.01m of 3-[2-(1-piperazinyl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one, 0.011m of N-2-chloroethylmorpholine and 0.011m of triethylamine in 200ml of ethanol was refluxed for 6 hours. The mixture was filtered while hot and treated immediately with excess HCl gas. Recrystallization of the crude product from 4:1 methanol-water afforded pure material, m.p. 262°-4° C.

reactant | 3-[2-(1-piperazinyl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | N1(CCNCC1)CCN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OC)OC | C20H27N3O4
reactant | N-2-chloroethylmorpholine | ClCCN1CCOCC1 | C6H12ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200ml | C(C)O | C2H6O
product | 1,2,3,4-tetrahydro-8,9-dimethoxy-3-(2-[4-(2-morpholinoethyl)-1-piperazinyl]ethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one trihydrochloride | Cl.Cl.Cl.COC1=CC2=C(C=C1OC)C1=C(CN(CC1)CCN1CCN(CC1)CCN1CCOCC1)C(O2)=O | InChI=1S/C26H38N4O5.3ClH/c1-32-24-17-21-20-3-4-30(19-22(20)26(31)35-23(21)18-25(24)33-2)12-11-28-7-5-27(6-8-28)9-10-29-13-15-34-16-14-29;;;/h17-18H,3-16,19H2,1-2H3;3*1H
